US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-isopropylureido-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
To a mixture of 200 mg (0.850 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole and 20 ml of dichloromethane were added 92 μl (0.935 m mol) of isopropyl isocyanate with stirring at the room temperature, followed by stirring for 6 hours. The precipitated crystals were filtered off to obtain 120 mg (yield: 44%) of the intended compounds as colorless crystals.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 200 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | isopropyl isocyanate | 92 μl | C(C)(C)N=C=O | C4H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-isopropylureido-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 120 mg, yield: 44% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(=O)NC(C)C)O)C | C15H20N4O4
